US05985909
(d) 3,3-Di(methoxycarbonyl)-6-nitroindoline
Borane-dimethylsulfide (6.35 mL, 63 mmol) was added to a suspension of 3,3-di(methoxycarbonyl)-6-nitro-2-indolone (10.38 g, 35.2 mmol) in THF (350 mL) under nitrogen, and the mixture stirred at reflux for 1 h. The pale yellow solution was cooled, MeOH (10 mL), then H2O (10 mL), then aq. HCl (2 N, 50 mL) added, and the mixture stirred at 20° C. for a few minutes. The THF was evaporated and the aqueous residue extracted with EtOAc (×2). The extracts were dried (Na2SO4) and evaporated, and the resulting orange solid triturated with CH2Cl2 (2×100 mL) at 20° C. and filtered to remove most of the 3-(methoxycarbonyl)-6-nitroindole impurity. The CH2Cl2 solution was filtered through a short column of silica, eluting with more CH2Cl2, the solvent evaporated, and the resulting yellow solid recrystallised from MeOH to give title compound as a yellow crystalline solid (5.11 g, 52%), mp 139.5-140.5° C. 1H NMR (CDCl3) δ7.64 (dd, J=8.3, 2.1 Hz, 1H, H-5), 7.56 (d, J=8.3 Hz, 1H, H-4), 7.41 (d, J=2.1 Hz, 1H, H-7), 4.24 (d, J=1.9 Hz, 2H, NHCH2), 4.16 (br s, 1H, NH), 3.82 (s, 6H, CO2Me); 13C NMR δ168.7 (CO2Me), 151.7, 149.8, 130.8 (C-6,8,9), 127.2, 114.2, 104.2 (C-4,5,7), 62.7 (C-3), 54.1 (C-2), 53.6 (OMe); IR (KBr) 3351 (NH), 1732 (CO2Me), 1535 (NO2), 1351 (NO2), 1279 cm-1. Anal. Calculated for C12H12N2O6 : C, 51.4; H, 4.3; N, 10.0. Found: C, 51.4; H, 4.4; N, 10.0%.

reactant | Borane dimethylsulfide | 63 mmol, 6.35 mL | B.CSC
reactant | 3,3-di(methoxycarbonyl)-6-nitro-2-indolone | 35.2 mmol, 10.38 g | COC(=O)C1(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)C(=O)OC | C12H10N2O7
reactant | MeOH | 10 mL | CO | CH4O
reactant | HCl | 2 N, 50 mL | Cl | ClH
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | 3,3-Di(methoxycarbonyl)-6-nitroindoline | 5.11 g, 52% | COC(=O)C1(CNC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OC | C12H12N2O6
